US07772253B2
N-[1-(3,5-Diethoxy-4-fluoro-benzyl)-piperidin-4-yl]-3-methoxy-5-(1H-tetrazol-5-ylmethoxy)-benzamide
In analogy to the procedure described in example 50k), 3-methoxy-N-piperidin-4-yl-5-(1H-tetrazol-5-ylmethoxy)-benzamide [prepared from 4-[3-methoxy-5-(1-trityl-1H-tetrazol-5-ylmethoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester and/or 4-[3-methoxy-5-(2-trityl-2H-tetrazol-5-ylmethoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester by reaction with trifluoroacetic acid in dichloromethane in analogy to the procedure described in example 50i)] was reacted with 3,5-diethoxy-4-fluoro-benzaldehyde (example 50 g), sodium cyanoborohydride, N-ethyl-diisopropylamine and acetic acid in ethanol at 50° C. to yield the title compound as off-white solid. MS: 529.2 (MH+).

reactant | 3-methoxy-N-piperidin-4-yl-5-(1H-tetrazol-5-ylmethoxy)-benzamide | COC=1C=C(C(=O)NC2CCNCC2)C=C(C1)OCC1=NN=NN1 | C15H20N6O3
reactant | 4-[3-methoxy-5-(1-trityl-1H-tetrazol-5-ylmethoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC(=C1)OCC1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC)=O | C39H42N6O5
reactant | 4-[3-methoxy-5-(2-trityl-2H-tetrazol-5-ylmethoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC(=C1)OCC=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC)=O | C39H42N6O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,5-diethoxy-4-fluoro-benzaldehyde | 50 g | C(C)OC=1C=C(C=O)C=C(C1F)OCC | C11H13FO3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[1-(3,5-Diethoxy-4-fluoro-benzyl)-piperidin-4-yl]-3-methoxy-5-(1H-tetrazol-5-ylmethoxy)-benzamide | C(C)OC=1C=C(CN2CCC(CC2)NC(C2=CC(=CC(=C2)OCC2=NN=NN2)OC)=O)C=C(C1F)OCC | C26H33FN6O5
